US09079866B2
Hydrazinecarbothioamide (6.8 g, 75 mmol) was added to a solution of 4-bromo-2-fluorobenzoyl chloride (11.8 g, 50.0 mmol) in THF (50 mL) at rt and stirred for 1 hour. The reaction mixture was concentrated to give 2-(4-bromo-2-fluorobenzoyl)-hydrazinecarbothioamide as a white solid, which was used directly in the next step without purification. MS (ESI): mass calcd. for C8H7BFN3OS, 290.95, m/z found, 292.1 [M+H]+.

reactant | Hydrazinecarbothioamide | 75 mmol, 6.8 g | N(N)C(N)=S | CH5N3S
reactant | 4-bromo-2-fluorobenzoyl chloride | 50.0 mmol, 11.8 g | BrC1=CC(=C(C(=O)Cl)C=C1)F | C7H3BrClFO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(4-bromo-2-fluorobenzoyl)-hydrazinecarbothioamide | BrC1=CC(=C(C(=O)NNC(N)=S)C=C1)F | C8H7BrFN3OS
